US06780883B2
3-Methyl-thiophene-2-carboxylic acid (4-iodo-phenyl)-amide
This compound was synthesized by the same procedure as for Example 15, except 3-methyl-2-thiophenecarboxylic acid and 4-iodoaniline were used instead of 2-napthoic acid and 4-iodoaniline. M+1=344.2, mp 141˜142° C.

reactant | 3-methyl-2-thiophenecarboxylic acid | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 2-napthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
product | 3-Methyl-thiophene-2-carboxylic acid (4-iodo-phenyl)-amide | IC1=CC=C(C=C1)NC(=O)C=1SC=CC1C | C12H10INOS
